US04835312
To 150 ml of N,N-dimethylformamide, were added 24 g of benzamide, 14 g of potassium hydroxide and 40 g of sodium bromoacetate. They were reacted at 60° C. for 4 hours with stirring. After the reaction, the reaction solution was treated in the same manner as in Example 65. The resulting distillation residue was recrystallized from distilled water, thereby obtaining 34 g of hippuric acid having a melting point of 187° C.(yield: 69%).

reactant | benzamide | 24 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | potassium hydroxide | 14 g | [OH-].[K+]
reactant | sodium bromoacetate | 40 g | BrCC(=O)[O-].[Na+]
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | hippuric acid | 34 g, yield: 69% | C(CNC(=O)C1=CC=CC=C1)(=O)O | C9H9NO3
